US07115741B2
Homopiperazine (24 g) was dissolved in dichloromethane (250 mL) and a solution of di-tert-butyl-dicarbonate (40 g) in dichloromethane (100 mL) was added dropwise. The reaction was stirred at room temperature for 20 hours after which, it was concentrated to dryness. The residue was partitioned between water (50 mL) and 50% ethyl acetate/hexane (100 mL). The layers were separated and the aqueous phase was washed with 50% ethyl acetate/hexane (4×50 mL). The combined organic extracts were washed with HCl (0.1 N in water, 6×50 mL) and the combined aqueous phases were neutralized with saturated aqueous sodium bicarbonate. The resulting aqueous solution was saturated with sodium chloride and made basic with the addition of 2 pellets of sodium hydroxide. After washing with 50% ethyl acetate/hexane (100 mL), the organic phase was dried over anhydrous magnesium sulfate, filtered and concentrated giving 1-BOC-homopiperazine (3.32 g). Yield=7%

reactant | Homopiperazine | 24 g | N1CCNCCC1 | C5H12N2
reactant | di-tert-butyl-dicarbonate | 40 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-BOC-homopiperazine | 3.32 g, Yield=7% | C(=O)(OC(C)(C)C)N1CCNCCC1 | C10H20N2O2
